US06376655B1
15.06 g (0.067 mol) of 4-(4-cyanophenylazo)phenol, 14.99 g (0.067 mol) of ethyl 6-bromo-hexanoate (Aldrich, 99%) and 11.76 g (0.085 mol) of oven dried K2CO3 were mixed in a 250 mL one-neck round flask fitted with a magnetic stirring bar. 160 mL of dry acetone was added, the flask was closed with a reflux condenser protected on the top with a CaCl2-drying tube and the stirred solution was refluxed on an oil bath at 60° C. for 72 h. After cooling the flask was transferred to a Rotavapor and the acetone was removed by rotary evaporation. The resulting solid mixture was added 200 mL of hot water and stirred. The aqueous mixture was allowed to cool and then filtered by suction from a water aspirator. The undried filtercake was transferred to a 500 mL Erlenmeyer flask, 300 mL of ethanol was added and the content of the flask brought to boiling. After cooling 20.46 g (yield 83%) of ethyl 6-[4-(4-cyanophenyl-azo)phenoxy]-hexanoate was filtered off. The crude ethyl 6-[4-(4cyanophenylazo)phenoxy]-hexanoate was recrystallized from 750 mL of ethanol and then repeatedly from 650 mL of ethanoL After vacuum drying at 50° C. for 20 h a final yield of 17.21 g (70%) was obtained.

reactant | 4-(4-cyanophenylazo)phenol | 0.067 mol, 15.06 g | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)O | C13H9N3O
reactant | ethyl 6-bromo-hexanoate | 0.067 mol, 14.99 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | ethyl 6-[4-(4-cyanophenyl-azo)phenoxy]-hexanoate | 20.46 g, yield 83% | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCCCCCC(=O)OCC)C=C1 | C21H23N3O3
